US08106070B2
Ammonium acetate (48 g, 620 mmol) was added to an ambient temperature solution of benzyl {1-(4-bromobenzyl)-2-[(4,4-dimethyl-2-oxohexyl)amino]-2-oxoethyl}carbamate (6.23 g, 12.4 mmol) in xylene (124 mL). After stirring at 150° C. for 2 h, the reaction mixture was quenched with saturated aqueous sodium bicarbonate and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford benzyl {2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}carbamate which was used in the subsequent step without further purification.

reactant | Ammonium acetate | 620 mmol, 48 g | C(C)(=O)[O-].[NH4+]
reactant | benzyl {1-(4-bromobenzyl)-2-[(4,4-dimethyl-2-oxohexyl)amino]-2-oxoethyl}carbamate | 12.4 mmol, 6.23 g | BrC1=CC=C(CC(C(=O)NCC(CC(CC)(C)C)=O)NC(OCC2=CC=CC=C2)=O)C=C1 | C25H31BrN2O4
solvent | xylene | 124 mL | C=1(C(=CC=CC1)C)C | C8H10
product | benzyl {2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}carbamate | BrC1=CC=C(C=C1)CC(C=1NC=C(N1)CC(CC)(C)C)NC(OCC1=CC=CC=C1)=O | C25H30BrN3O2
